US08431568B2
To a solution of methyl 10-cyclohexyl-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylate (173 mg, 0.406 mmol) in THF (7 mL) and MeOH (3.5 mL), was added aq NaOH (1.0N, 1.8 mL, 1.8 mmol). The reaction mixture was heated at 70° C. for 2 h and the solvents were removed. The resulting white solid residue was washed with water, isolated by centrifuge and dried under N2 to yield 10-cyclohexyl-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylic acid (132 mg, 0.320 mmol, 79%) as a white solid, which was used without further purification. 1H NMR (500 MHz, d6-DMSO) δ 1.13-1.24 (m, 1H), 1.35-1.51 (m, 3H), 1.66-1.75 (m, 2H), 1.85-2.08 (m, 4H), 2.48 (s, 3H), 2.79-2.89 (m, 1H), 4.90 (d, J=15.6 Hz, 1H), 5.80 (d, J=15.6 Hz, 1H), 7.65-7.72 (m, 5H), 7.78-7.83 (m, 1H), 8.15 (s, 1H). LCMS: m/e 413 (M+H)+, ret time 2.01 min.

reactant | methyl 10-cyclohexyl-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylate | 0.406 mmol, 173 mg | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)OC)C=NN4C)C2=CC=C1 | C26H26N4O2
reactant | NaOH | 1.8 mmol, 1.0N, 1.8 mL | [OH-].[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3.5 mL | CO | CH4O
product | 10-cyclohexyl-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine-7-carboxylic acid | 0.320 mmol, 132 mg, 79% | C1(CCCCC1)C1=C2C=C3N(C=C4N(C5=C3C=C(C=C5)C(=O)O)C=NN4C)C2=CC=C1 | C25H24N4O2
